US06051712
In an analogous manner to the procedure described in Example 14, by alkylating tert-butyl (3RS,4RS)-3-hydroxy-4-(4-hydroxy-phenyl)-piperidine-1-carboxylate with 2-bromomethyl-1,3-dioxolane in the presence of potassium carbonate there was obtained tert-butyl (3RS,4RS)-4-[4-([1,3]dioxolan-2-ylmethoxy)-phenyl]-3-hydroxy-piperidine-1-carboxylate as a colourless solid; m.p.: 136-137° C. (hexane).

reactant | tert-butyl (3RS,4RS)-3-hydroxy-4-(4-hydroxy-phenyl)-piperidine-1-carboxylate | OC1CN(CCC1C1=CC=C(C=C1)O)C(=O)OC(C)(C)C | C16H23NO4
reactant | 2-bromomethyl-1,3-dioxolane | BrCC1OCCO1 | C4H7BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | tert-butyl (3RS,4RS)-4-[4-([1,3]dioxolan-2-ylmethoxy)-phenyl]-3-hydroxy-piperidine-1-carboxylate | O1C(OCC1)COC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)O | C20H29NO6
